US06242443B1
3-Propylamino-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide
3-(Imidazol-1-yl)-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide was treated with propylamine according to the general procedure Method A to give the title compound; m.p. >310° C.

reactant | 3-(Imidazol-1-yl)-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide | N1(C=NC=C1)C1=NS(C2=C(N1)C=CC(=C2)C(=O)O)(=O)=O | C11H8N4O4S
reactant | propylamine | C(CC)N | C3H9N
product | 3-Propylamino-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide | C(CC)NC1=NS(C2=C(N1)C=CC(=C2)C(=O)O)(=O)=O | C11H13N3O4S
